US04495187
(f) Preparation of 4-hydroxy-7-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline
A mixture consisting of 1.6 g. (0.0069 mole) of 4,7-dimethoxy-[1,2,4]triazolo[4,3-a]quinoxaline, 16 ml. of 1N hydrochloric acid and 48 ml. of glacial acetic acid was refluxed for a period of three hours. Upon completion of this step, the reaction mixture was poured over ice and filtered. The recovered product was then collected on the filter funnel and washed with diethyl ether to ultimately afford 1.19 g. (80%) of pure 4-hydroxy-7-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. >250° C.

reactant | 4,7-dimethoxy-[1,2,4]triazolo[4,3-a]quinoxaline | 0.0069 mole | COC=1C=2N(C3=CC=C(C=C3N1)OC)C=NN2 | C11H10N4O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-hydroxy-7-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline | OC=1C=2N(C3=CC=C(C=C3N1)OC)C=NN2 | C10H8N4O2
